US05523411
2-Formylindole:
A total of 1.76 g of 2-indolemethanol was dissolved in dry CH2Cl2 (20 mL) at room temperature and stirred overnight with MnO2 (2.1 g, 24 mmol). The mixture was filtered through Celite, the filtrate was evaporated under reduced pressure, and the product was purified by flash chromatography (CH2Cl2). Yield: 1.31 g (75%), 1H NMR (CDCl3): δ7.1-7.5 (m, 4H), 7.76 (d, 1H, J=7.8 Hz), 9.41 (br s, 1H), 9.86 (s, 1H).MS EI): m/z 145 (M+).

reactant | 2-indolemethanol | 1.76 g | N1C(=CC2=CC=CC=C12)CO | C9H9NO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 24 mmol, 2.1 g | O=[Mn]=O
product | 2-Formylindole | C(=O)C=1NC2=CC=CC=C2C1 | C9H7NO
